US07148226B2
5-Bromo-3,3-dimethyl-3H-benzofuran-2-one
3,3-Dimethyl-3H-benzofuran-2-one (2.81 g, 17.3 mmol) was added to a solution of Bromine (1.51 mL, 29.5 mmoL) and Acetic acid (35 mL) at room temperature, then stirred overnight. The resulting mixture was stripped of solvent, then distilled under high vacuum. The product fraction (2.08 g, 50%) was collected between 65° C. and 79° C.

reactant | 3,3-Dimethyl-3H-benzofuran-2-one | 17.3 mmol, 2.81 g | CC1(C(OC2=C1C=CC=C2)=O)C | C10H10O2
reactant | Bromine | 1.51 mL | BrBr | Br2
solvent | Acetic acid | 35 mL | C(C)(=O)O | C2H4O2
product | 5-Bromo-3,3-dimethyl-3H-benzofuran-2-one | BrC=1C=CC2=C(C(C(O2)=O)(C)C)C1 | C10H9BrO2
